US08957080B2
To the solution of 4-chloro-6-methyl-7H-pyrrolo[2,3-d]pyrimidine (1.0 g, 5.97 mmol, 1.0 eq) and (S)-tert-butyl 2-(hydroxymethyl)pyrrolidine-1-carboxylate (1.32 g, 6.57 mmol, 1.1 eq) and PPh3 (3.03 g, 11.94 mmol, 2.0 eq) in THF (50 mL), DIEA (2.08 g, 11.94 mmol, 2.0 eq) was added at 0° C. The resulted mixture was stirred and warmed to RT for 12 h. Solvent was removed and purified by column chromatography (eluting with 10% EtOAc in PE) to afford (S)-tert-butyl 2-((4-chloro-6-methyl-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)pyrrolidine-1-carboxylate as a white solid (2.08 g, 100% in yield).

reactant | 4-chloro-6-methyl-7H-pyrrolo[2,3-d]pyrimidine | 5.97 mmol, 1.0 g, 1.0 eq | ClC=1C2=C(N=CN1)NC(=C2)C | C7H6ClN3
reactant | (S)-tert-butyl 2-(hydroxymethyl)pyrrolidine-1-carboxylate | 6.57 mmol, 1.32 g, 1.1 eq | OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | PPh3 | 11.94 mmol, 3.03 g, 2.0 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIEA | 11.94 mmol, 2.08 g, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 2-((4-chloro-6-methyl-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)pyrrolidine-1-carboxylate | ClC=1C2=C(N=CN1)N(C(=C2)C)C[C@H]2N(CCC2)C(=O)OC(C)(C)C | C17H23ClN4O2
